US04654369
N,N-Dimethyl-2-[N-(2-Hydroxy-1-propyl)aminosulfonyl]-6-nitrobenzamide
Methyl 2-[N-(2-hydroxy-1-propyl)aminosulfonyl]-6-nitrobenzoate (2.00g, 628 mmol) was dissolved in 60 ml of methanol. Sodium methoxide (1.0 ml of a 0.1 M solution in methanol) was added and the solution cooled and stirred in an ice-bath while a rapid stream of dimethylamine was passed into the vortex for 15 minutes. Stirring in the ice-bath then was continued for 1 hour, when the flash was removed from the bath and the reaction mixture allowed to stand at room temperature overnight. The methanol and excess dimethylamine then were evaporated under reduced pressure and the residue shaken with ethyl acetate, 80 ml; 0.2N HCl, 10 ml; and saturated NaCl, 10 ml. The ethyl acetate layer was separated, extracted with 3×15 ml of saturated NaCl and evaporated to give a clear yellow oil. After drying 23 hours in vacuo, this product weight 2.03 g. Crystallization had started after 3 days. Recrystallization from a mixture of ethyl acetate and hexane gave 1.33 g (63.9%) of product, m.p., 95.5°-97°.

reactant | Methyl 2-[N-(2-hydroxy-1-propyl)aminosulfonyl]-6-nitrobenzoate | 628 mmol, 2.00g | OC(CNS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-])C | C11H14N2O7S
reactant | Sodium methoxide | C[O-].[Na+]
reactant | dimethylamine | CNC | C2H7N
solvent | methanol | 60 ml | CO | CH4O
product | N,N-Dimethyl-2-[N-(2-Hydroxy-1-propyl)aminosulfonyl]-6-nitrobenzamide | 1.33 g, 63.9% | CN(C(C1=C(C=CC=C1[N+](=O)[O-])S(=O)(=O)NCC(C)O)=O)C | C12H17N3O6S
